US08669234B2
The mixture of 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.44 mmol) and Lawesson's reagent (1.23 g, 3.0 mmol) in THF (16 ml) was heated at 80° C. for 4 hours. The solvent was removed under reduced pressure and the mixture was diluted with EtOAc. The organic phase was washed with saturated sodium bicarbonate, water, and brine, and was dried with sodium sulfate. Concentration and purification by flash column chromatography (hexanes/EtOAc) gave 2-[5-(4-Bromo-phenyl)-thiazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (655 mg). m/z: 410.7 (M+H)+.

reactant | 2-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C18H23BrN2O4
reactant | Lawesson's reagent | 3.0 mmol, 1.23 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 2-[5-(4-Bromo-phenyl)-thiazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 655 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1SC(=CN1)C1=CC=C(C=C1)Br | C18H21BrN2O2S
